US07268135B2
3-Methyl-2-[4′-(5-trifluoromethyl-pyridin-2-yloxy)-biphenyl-4-sulfonylamino]-butyric acid tert-butyl ester (97 mg) was dissolved in CH2Cl2 (6 mL) and added with TFA (2 mL). Reaction was complete in 6 hrs as determined by TLC. After removing solvent, residue was purified by column chromatography (10% MeOH/CH2Cl2) to afford 3-Methyl-2-[4′-(5-trifluoromethyl-pyridin-2-yloxy)-biphenyl-4-sulfonylamino]-butyric acid in 66% yield (54.5 mg).

reactant | 3-Methyl-2-[4′-(5-trifluoromethyl-pyridin-2-yloxy)-biphenyl-4-sulfonylamino]-butyric acid tert-butyl ester | 97 mg | C(C)(C)(C)OC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O | C27H29F3N2O5S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | 3-Methyl-2-[4′-(5-trifluoromethyl-pyridin-2-yloxy)-biphenyl-4-sulfonylamino]-butyric acid | 66% yield | CC(C(C(=O)O)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)C | C23H21F3N2O5S
